US08034812B2
Production of methyl 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoate
A mixture of 6-chloroimidazo[1,2-b]pyridazine (1536 mg, 10.0 mmol), methyl 2-mercaptobenzoate (1.788 mL, 13.0 mmol), potassium carbonate (4146 mg, 30.0 mmol) and N,N-dimethylformamide (20 mL) was stirred at 70° C. for 18 hr. To the reaction mixture was added methyl 2-mercaptobenzoate (0.963 mL, 7.0 mmol), and the mixture was stirred at 70° C. for 6 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane/ethyl acetate=90/10→20/80) and precipitated from diisopropyl ether to give the title compound (663 mg, 2.3 mmol, yield 23%) as a white solid.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 10.0 mmol, 1536 mg | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | methyl 2-mercaptobenzoate | 13.0 mmol, 1.788 mL | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
reactant | potassium carbonate | 30.0 mmol, 4146 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-mercaptobenzoate | 7.0 mmol, 0.963 mL | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | methyl 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoate | 2.3 mmol, 663 mg, yield 23% | N=1C=CN2N=C(C=CC21)SC2=C(C(=O)OC)C=CC=C2 | C14H11N3O2S
